*$
* TPS54331
*****************************************************************************
* (C) Copyright 2012 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: WEBENCH Design Center, Texas Instruments Inc.
* Part: TPS54331
* Date: 23AUG2012
* Model Type: TRANSIENT
* Simulator: PSPICE
* Simulator Version: 16.2.0.p001
* EVM Order Number: TPS54331EVM-232
* EVM Users Guide: SLVU247–July 2008
* Datasheet: SLVS839D –JULY 2008–REVISED JANUARY 2012
*
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web.
*
*****************************************************************************
.SUBCKT TPS54331_TRANS BOOT COMP EN GND PH SS VIN VSENSE  
E_U44_ABM6         ENREGS 0 VALUE { if(V(2P5)<2.48,0,5)    }
E_U44_ABM7         N68245 0 VALUE { if(V(SD)>2,0,if(V(VIN)<0.8,V(VIN),0.8))   
+  }
E_U44_ABM5         2P5 0 VALUE { if(V(SD)>2,0,if(V(VIN)<2.5,V(VIN),2.5))    }
R_U40_R1         GND U40_N14704  10k  
E_U40_ABM1         U40_N14704 0 VALUE { IF(V(EN)<1.25,0,5)    }
X_U40_U1         EN VIN d_d PARAMS:
G_U40_G1         VIN EN U40_N14704 GND 600n
E_U40_ABM2         SD 0 VALUE { IF(V(EN)<1.25,5,0)    }
I_U40_I1         VIN EN DC 1u  
X_U48_S6    U48_N19630 GND SS GND SOFT_START_U48_S6 
E_U48_ABM10         VREF_GM 0 VALUE { IF (V(N68245) >V(SS) ,V(SS),V(N68245))   
+  }
E_U48_ABM11         U48_N19630 0 VALUE { IF (V(SD) >2 | V(OC) >5.8,5,0)    }
X_U48_D9         SS 2P5 d_d PARAMS:
I_U48_I2         2P5 SS DC 2udc  
C_U41_C38         OC U41_N03360  1u  
E_U41_ABM3         ECO 0 VALUE { if (V(COMP)>0.513, 5,
+  if(V(U41_N03360)<0.160,0,5))    }
G_U41_G1         GND U41_N00409 VREF_GM VSENSE 92u
R_U41_R23         GND U41_N03360  10k  
X_U41_U3         U41_N14122 COMP d_d2 PARAMS:
C_U41_C37         GND COMP  5.4p  
R_U41_R22         GND COMP  8.696Meg  
G_U41_ABMI1         COMP GND VALUE { if(I(V_U41_V1)>0,
+  -1*min(I(V_U41_V1),0.000007),-1*max(I(V_U41_V1),-0.000007))    }
V_U41_V1         U41_N00409 GND DC 0Vdc AC 0Vac 
X_U41_U2         COMP U41_N02173 d_d PARAMS:
R_U41_R21         VREF_GM VSENSE  10Meg  
V_U41_V3         U41_N14122 GND 0.5Vdc
V_U41_V2         U41_N02173 GND 1.6Vdc
G_U45_ABMII1         U45_N00466 GND VALUE {
+  if(V(VSENSE)<0.2,-0.0075,if(V(VSENSE)<0.4,-0.0152,if(V(VSENSE)<0.6,-0.030,-0.060)))
+     }
C_U45_C69         GND U45_N00466  8.7n  
E_U45_ABM8         U45_N00859 0 VALUE { if(V(U45_N00466)<1,0,(V(U45_N00466)-1))
+     }
V_U45_V13         U45_IN2 GND  
+PULSE 0 5 0 20n 20n 13.06u 14.04u
X_U45_S5    U45_N05307 GND U45_N00466 GND SLOPECOMP_U45_S5 
V_U45_V14         U45_IN3 GND  
+PULSE 0 5 0 20n 20n 6.52u 7.02u
E_U45_ABM9         CLK 0 VALUE { if(V(SD)>3,0,if
+  (V(VSENSE)<0.2,V(U45_IN2),if(V(VSENSE)<0.4,V(U45_IN3),if(V(VSENSE)<0.6,V(U45_IN4),V(U45_IN5)))))
+     }
G_U45_G2         2P5 N67875 U45_N00859 GND 1e-6
V_U45_V15         U45_IN4 GND  
+PULSE 0 5 0 20n 20n 3.26u 3.51u
X_U45_U_INV1         CLK U45_N05307 INV_BASIC
V_U45_V16         U45_IN5 GND  
+PULSE 0 5 0 20n 20n 1.63u 1.75u
V_U43_V7         N67893 GND DC 0Vdc AC 0Vac 
V_U43_V5         U43_N01530 GND DC 0Vdc AC 0Vac 
V_U43_V9         N67875 GND DC 0Vdc AC 0Vac 
E_U43_ABM4         U43_N02780 0 VALUE { if((I(V_U43_V7)-I(V_U43_V6))>0,0,5)   
+  }
G_U43_ABMI3         U43_N01763 GND VALUE { (((V(COMP)-0.5)/35e3)-I(V_U43_V9))*
+  (-12)    }
V_U43_V8         U43_N01763 GND DC 0Vdc AC 0Vac 
X_U43_F1    U43_N00392 GND 2P5 U43_N02091 MODULATOR2_U43_F1 
V_U43_V6         U43_N02091 GND DC 0Vdc AC 0Vac 
G_U43_ABMI2         U43_N00392 GND VALUE { min(-I(V_U43_V5),I(V_U43_V8))    }
I_U43_I1         GND U43_N01530 DC -138.09uAdc  
X_U43_U3         U43_N02780 N67911 BUF_DELAY_BASIC PARAMS: DELAY=30N
X_U47_S1    U47_N00154 GND BOOT VIN BOOT_UVLO_U47_S1 
E_U47_ABM1         U47_N00154 0 VALUE { if(V(BOOT)-V(PH)>6,0,5)    }
E_U47_ABM2         N68385 0 VALUE { if(V(BOOT)-V(PH)>2.1,5,0)    }
G_U42_ABMI4         VIN N67893 VALUE { IF (V(U42_IN1)>0.120,I(V_U42_V11),0)   
+  }
X_U42_U4         U42_N14330321 U42_N14374249 U42_N01674 OR2_BASIC_GEN
X_U42_U6         U42_N14330321 U42_N14330317 U42_N14330309 AND2_BASIC
X_U42_S4    U42_N01674 GND U42_N01108 PH POWERSTAGE_U42_S4 
X_U42_U7         U42_N14330309 U42_N14330333 ideal_diode PARAMS:
V_U42_V12         U42_N14378229 GND 0.8Vdc
V_U42_V10         U42_N04959 GND 5Vdc
X_U42_H1    U42_N00618 U42_N00836 OC GND POWERSTAGE_U42_H1 
E_U42_ABM10         U42_N14379753 0 VALUE { IF (V(VREF_GM) >=V(U42_N14378229)
+  ,5,0)    }
V_U42_V11         U42_N00718 GND DC 0Vdc AC 0Vac 
X_U42_S3    U42_N01108 PH U42_N00836 PH POWERSTAGE_U42_S3 
X_U42_U_DFF1         U42_N14330321 U42_QN CLK U42_N04959 N67943 U42_N04959
+  dff_basic PARAMS:
X_U42_S2    U42_N01674 GND BOOT U42_N01108 POWERSTAGE_U42_S2 
D_U42_D7         PH U42_N00836 MBR340 
X_U42_U5         U42_N14330321 U42_N14330317 INV_DELAY_BASIC PARAMS: DELAY=10N
X_U42_U8         U42_N14330333 U42_N14379753 U42_N14374249 AND2_BASIC
R_U42_R35         U42_N01674 U42_IN1  10k  
R_U42_R34         U42_N14330333 U42_N14330309  135.7  
C_U42_C57         GND U42_N14330333  1n  
C_U42_C58         GND U42_IN1  20p  
X_U42_F2    VIN U42_N00618 VIN U42_N00718 POWERSTAGE_U42_F2 
X_U46         N67911 ECO N68385 N67943 AND3_BASIC
.ENDS TPS54331_TRANS

*$
.subckt SOFT_START_U48_S6 1 2 3 4  
S_U48_S6         3 4 1 2 _U48_S6
RS_U48_S6         1 2 1G
.MODEL         _U48_S6 VSWITCH Roff=1e9 Ron=2e3 Voff=1.0V Von=3.0V
.ends SOFT_START_U48_S6
*$
.subckt SLOPECOMP_U45_S5 1 2 3 4  
S_U45_S5         3 4 1 2 _U45_S5
RS_U45_S5         1 2 1G
.MODEL         _U45_S5 VSWITCH Roff=1e6 Ron=1.0 Voff=1.0V Von=3.0V
.ends SLOPECOMP_U45_S5
*$
.subckt MODULATOR2_U43_F1 1 2 3 4  
F_U43_F1         3 4 VF_U43_F1 -42e3
VF_U43_F1         1 2 0V
.ends MODULATOR2_U43_F1
*$
.subckt BOOT_UVLO_U47_S1 1 2 3 4  
S_U47_S1         3 4 1 2 _U47_S1
RS_U47_S1         1 2 1G
.MODEL         _U47_S1 VSWITCH Roff=1e9 Ron=10 Voff=0.0V Von=1.0V
.ends BOOT_UVLO_U47_S1
*$
.subckt POWERSTAGE_U42_S4 1 2 3 4  
S_U42_S4         3 4 1 2 _U42_S4
RS_U42_S4         1 2 1G
.MODEL         _U42_S4 VSWITCH Roff=9.7 Ron=1e9 Voff=1.0V Von=3.0V
.ends POWERSTAGE_U42_S4
*$
.subckt POWERSTAGE_U42_H1 1 2 3 4  
H_U42_H1         3 4 VH_U42_H1 1
VH_U42_H1         1 2 0V
.ends POWERSTAGE_U42_H1
*$
.subckt POWERSTAGE_U42_S3 1 2 3 4  
S_U42_S3         3 4 1 2 _U42_S3
RS_U42_S3         1 2 1G
.MODEL         _U42_S3 VSWITCH Roff=1e9 Ron=80m Voff=0.5V Von=2.0V
.ends POWERSTAGE_U42_S3
*$
.subckt POWERSTAGE_U42_S2 1 2 3 4  
S_U42_S2         3 4 1 2 _U42_S2
RS_U42_S2         1 2 1G
.MODEL         _U42_S2 VSWITCH Roff=1e9 Ron=12 Voff=1.0V Von=3.0V
.ends POWERSTAGE_U42_S2
*$
.subckt POWERSTAGE_U42_F2 1 2 3 4  
F_U42_F2         3 4 VF_U42_F2 1
VF_U42_F2         1 2 0V
.ends POWERSTAGE_U42_F2
*$
.subckt d_d      1    2

d1 1 2  dd

.model dd d
+ is=1e-015
+ n=0.16
+ cjo=1e-012
+ tt=1e-011

.ends d_d
*$
.subckt d_d2      1    2

d1 1 2  dd

.model dd d
+ is=1e-015
+ n=0.001
+ cjo=1e-012
+ tt=1e-011

.ends d_d2
*$
.subckt dff_basic q qb clk d r s

x1 clk clkdel inv_delay_basic params: delay = 15n
x2 clk clkdel clkint and2_basic 
gq 0 qint value = {if(v(s) < 2.5,5,if(v(r)<2.5,-5, if(v(clkint)>2.5, 
+ if(v(d)>2.5,5,-5),0)))}
cqint qint 0 1n
rqint qint 0 1000meg
d_d10 qint my5 d_d1
v1 my5 0 5
d_d11 0 qint d_d1 
eq qqq 0 qint 0 1
x3 qqq qqqd1 buf_delay_basic params: delay = 15n
rqq qqqd1 q 1
eqb qbr 0 value = {if( v(q) > 2.5, 0,5)}
rqb qbr qb 1 
cdummy1 q 0 1nf 
cdummy2 qb 0 1nf 
.ic v(qint) = 0

.model d_d1 d
+ is=1e-015
+ tt=1e-011
+ rs=0.05
+ n=0.1

.ends dff_basic
*$
.SUBCKT INV_BASIC A  Y 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > 2.5 , 
+ 0,5)}}
RINT YINT Y 1
CINT Y 0 15n
.ENDS INV_BASIC
*$
.SUBCKT AND3_BASIC A B C Y 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > 2.5  &  
+ V(B) > 2.5 &
+ V(C) > 2.5,5,0)}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS AND3_BASIC
*$
.SUBCKT BUF_DELAY_BASIC A  Y PARAMS: DELAY = 30n
E_ABMGATE1    YINT1 0 VALUE {{IF(V(A) > 2.5 , 
+ 5,0)}}
RINT YINT1 YINT2 1
CINT YINT2 0 {DELAY*1.3}
E_ABMGATE2    YINT3 0 VALUE {{IF(V(YINT2) > 2.5 , 
+ 5,0)}}
RINT2 YINT3 Y 1
CINT2 Y 0 1n
.ENDS BUF_DELAY_BASIC
*$
.SUBCKT CESR IN OUT
+ PARAMs:  C=100u ESR=0.01 X=2 IC=0
C	IN 1  {C*X} IC={IC}
RESR	1 OUT {ESR/X}
.ENDS CESR
*$
.SUBCKT LDCR IN OUT
+ PARAMs:  L=1u DCR=0.01 IC=0
L	IN 1  {L} IC={IC}
RDCR	1 OUT {DCR}
.ENDS LDCR
*$
.SUBCKT INV_DELAY_BASIC A  Y PARAMS: DELAY = 10n 
E_ABMGATE1    YINT1 0 VALUE {{IF(V(A) > 2.5 , 
+ 5,0)}}
RINT YINT1 YINT2 1
CINT YINT2 0 {DELAY*1.3}
E_ABMGATE2    YINT3 0 VALUE {{IF(V(YINT2) > 2.5 , 
+ 0,5)}}
RINT2 YINT3 Y 1
CINT2 Y 0 1n
.ENDS INV_DELAY_BASIC
*$
.SUBCKT AND2_BASIC A B Y 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > 2.5  &  
+ V(B) > 2.5,5,0)}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS AND2_BASIC
*$
.SUBCKT OR2_BASIC_GEN A B Y 
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > 2.5  |  
+ V(B) > 2.5,5,0)}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS OR2_BASIC_GEN
*$
.subckt ideal_diode 1 2
d1 1 2 dd

.model dd d
+ is=1e-015
+ n=0.01
+ tt=1e-011
.ends IDEAL_DIODE
*$